US07507729B2
b) (5-Methyl-pyrazol-1-yl)-acetic acid hydrazide
As described for example 112a, (5-methyl-pyrazol-1-yl)-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (2 equivalents) and the resulting mixture was heated under reflux for 8 h. The mixture was cooled to rt and the precipitated product was filtered off, dried and crystallized from toluene. The title compound (95% purity, based on NMR) was obtained as a white solid (yield: 45%). 1H-NMR (300 MHz, DMSO): δ=2.24 (s, 3H), 4.29 (s, 2H), 4.65 (s, 2H), 6.00 (d, J=1 Hz, 1H), 7.55 (d, J=1 Hz, 1H), 9.27 (s, 1H).

reactant | (5-methyl-pyrazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=CC=C1C)=O | C8H12N2O2
reactant | hydrazine hydrate | 2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (5-Methyl-pyrazol-1-yl)-acetic acid hydrazide | 95% | CC1=CC=NN1CC(=O)NN | C6H10N4O
